US07514583B2
Succinic acid bis(3,4-dibenzyloxybenzylamide)
3,4-dibenzyloxybenzylamine (1.1 g, 3.45 mmol) was dissolved in anhydrous pyridine (8 ml) and cooled to 0° C. with stirring under nitrogen. To this solution, succinyl chloride (0.23 g, 1.42 mmol) was added dropwise over 30 minutes as a solution in dichloromethane (50 ml), while maintaining the reaction mixture at 0° C. The reaction was allowed to warm to room temperature and stirred for an additional 45 minutes. The reaction was poured onto crushed ice (70 g) and the dichloromethane layer was separated. The organic extract was washed with dilute aqueous hydrochloric acid (2×20 ml of 0.1M solution), water (20 ml), and dried (Na2SO4). Removal of the solvent at reduced pressure afforded a crude solid, which was triturated with methanol (5 ml) to afford after filtration the protected diamide, yield 300 mg.

reactant | 3,4-dibenzyloxybenzylamine | 3.45 mmol, 1.1 g | C(C1=CC=CC=C1)OC=1C=C(CN)C=CC1OCC1=CC=CC=C1 | C21H21NO2
reactant | succinyl chloride | 1.42 mmol, 0.23 g | C(CCC(=O)Cl)(=O)Cl | C4H4Cl2O2
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Succinic acid bis(3,4-dibenzyloxybenzylamide) | C(C1=CC=CC=C1)OC=1C=C(CNC(CCC(=O)NCC2=CC(=C(C=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)=O)C=CC1OCC1=CC=CC=C1 | C46H44N2O6
